* ADS9224R (PSpice format)
*****************************************************************************
* (C) Copyright 2021 Texas Instruments Incorporated. All rights reserved.   
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
* Released by: Texas Instruments Inc.
* Part: ADS9224R
* Date: 10/6/2021
* Model Type:  TRANSIENT
* Simulator: PSPICE for TI
* Simulator Version: 17.4-2020
* Datasheet: SLUSD31A –OCTOBER 2018–REVISED DECEMBER 2018
*
* Model Version: 1.30
*
*  Model created  Art Kay & DesignSoft, Inc.   
**************************************************************************
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* Note: this model shows a reference pin.  This pin should not be connected for simulations with this model.
* Sample and Hold transients
* Acquisition and Conversion period
* Bandwidth
* Noise spectral density
* Input leakage
* Input ESD diodes 
* Offset voltage
* Gain Error
* Input capacitance and switch resistance 
* Parasitic capacitance of ESD diode
*
.SUBCKT ADS9224R INP INM Tconv ResetSH SampleRate Tacq Vref_err Vsamp 
+ Vsettling_err Vref_ideal Vref
+ PARAMS:
+ Csh=16p Cdio=1p Cres=1.6p Rsh=120 tConv=193.3n Vref=4.096 fSampl=3Meg Iref=1u N=16 Iref_on=0 IL=1u EG=0.01 EO=125u
* SET UP VNSE 1/F
* NV/RHZ AT 1/F FREQ
+ NLF=4.96
* FREQ FOR 1/F VAL
+ FLW=0.01
* SET UP VNSE FB
* NV/RHZ FLATBAND
+ NVR=4.96
+ Cref=4p
.PARAM Rt= {100k}
.PARAM Rres= {10}
.PARAM Krcr= {3.55}
.PARAM Crcr= {tConv/(Krcr*Rt)}
.PARAM Rd1= {1k}
.PARAM Rd2= {1k}
.PARAM Kth= { Rd1/(Rd1+Rd2)}
.PARAM Krc= {-Log(1 - 2*Kth/(1 + Kth) )}
.PARAM Cosc= {Tosc/(2*Krc*Rosc)}
.PARAM Rosc= {1k}
.PARAM Tosc= {tConv/N - 4*Tdel}
.PARAM Tdel= {500p}
.PARAM Vref_on= {If (Iref_on > 0.5, 0, 5)}
.PARAM Tsmpl= {1/fSampl}
*.PARAM Cref= {-Iref*Krcr*Tsmpl*(N-1.0)/(Vref*N^2*(Exp(-(N-0.5)/N*Krcr) - Exp(-0.5/N*Krcr)))}
.PARAM Ciref= {-Iref*Krcr*Tsmpl*(N-0.5)/(Vref*N^2*(Exp(-(N-0.25)/N*Krcr) - Exp(-0.25/N*Krcr)))}
IS2         0 27 {Vref}
IS1         0 31 2.5
IG1         0 Res DC 0 AC 1 0
+ PWL
+  (0,0) (10N,0) (11N,5) (1U,5)
C2          0 19  {Cref} 
R9          VrefB 19 R_RES_1 {Rsh} 
XVn11       20 21 VNSE_0
+ PARAMS: NLF={707.1m*NLF} FLW={FLW} NVR={707.1m*NVR}
XVn1        22 23 VNSE_0
+ PARAMS: NLF={707.1M*NLF} FLW={FLW} NVR={707.1M*NVR}
XU5         ResetSH Tacq0_13 Tconv SampleRate Res Tacq One_Shot_ADC2
+ PARAMS: tConv={tConv}
GVCCS16     0 Tacq0_15 VALUE = {IF(TIME<1N,5,V(Tacq,0))}
R32         0 Tacq0_15 R_RES_1 1 
GVCCS15     22 24 VALUE = {IF(TIME<1P,V(22,24),1P*V(22,24))}
GVCCS14     25 20 VALUE = {IF(TIME<1P,V(25,20),1P*V(25,20))}
GVCCS9      0 26 VALUE = {IF(IREF_ON>0.5&V(Tacq0_13,0)>2.5,0,-5)}
R31         0 26 R_RES_1 1 
R25         0 27 R_RES_1 1 
R22         Vref_ideal 28 R_RES_1 1T 
GVCCS13     28 Vref_ideal VALUE = {IF(V(Tacq0_13,0)<1,V(28,Vref_ideal),0*V(28,Vref_ideal))}
GVCCS12     29 23 VALUE = {IF(TIME<1P,V(29,23)/RSH,0)}
GVCCS11     30 21 VALUE = {IF(TIME<1P,V(30,21)/RSH,0)}
R19         28 0 R_RES_1 1K 
EVCVS5      28 0 VALUE = {IF(TIME<1P,VREF, V(Vref,0))}
R10         Vref 27 R_RES_1 100MEG 
R29         0 31 R_RES_1 1 
R28         0 Res R_RES_1 1 
R27         VrefB 0 1K 
R26         32 0 R_RES_1 1K 
R24         33 0 1K 
GVCCS10     0 Res0 VALUE = {IF(TIME<1N,0,-V(Res,0)+5)}
R23         0 Res0 R_RES_1 1 
GVCCS8      0 Iref_on VALUE = {IF(IREF_ON>0.5&V(Tacq0_13,0)>2.5,0,5)}
R21         0 Iref_on R_RES_1 1 
R20         0 Vsettling_err R_RES_1 1 
GVCCS7      Vsettling_err 0 Voa_SS Vsamp  1
R6          0 Vref_err R_RES_1 1 
GVCCS6      Vref_err 0 Vref_ideal Vref  -1
GVCCS5      0 Vsamp VALUE = {IF(TIME<1P,V(35,0)*V(Vref_ideal,0)/V(19,0)*(1+10M*EG)+EO,
+            V(35,0)/V(Vref_ideal,0)*V(Vref,0))}
GVCCS3      0 INM VALUE = {IF(TIME<1P,IL,0)}
GVCCS2      0 INP VALUE = {IF(TIME<1P,IL,0)}
XD_D4       25 VrefB D_D1_0
XD_D3       24 VrefB D_D1_0
XD_D2       0 25 D_D1_0
XD_D1       0 24 D_D1_0
R4          INM 20 R_RES_1 200M 
R1          INP 22 R_RES_1 200M 
SW12        VCt 31 Res 0 S_VSWITCH_1
EVCVS4      33 0 INP INM  1
C3          0 Voa_SS  1N 
SW11        33 Voa_SS Tacq0_13 0 S_VSWITCH_2
R16         0 Vra R_RES_1 1T 
R15         0 Vcr R_RES_1 1T 
Ciref        0 Vcr  {Ciref} 
R5          Vra VrefB {Rt} 
EVCVS3      VrefB 0 Vref 0  1
EVCVS2      32 0 Vra 0  1
SW10        Vra 0 Tconv 26 S_VSWITCH_3
C8          0 Vra  {Crcr} 
SW8         Vcr 32 osc_out 0 S_VSWITCH_4
SW7         Vref Vcr osc_out 0 S_VSWITCH_5
XU1         Vthp VCt osc_out 0 HYSTCOMPG_3_0
+ PARAMS: ROUT=1 VOUTH=2.5 VOUTL=-2.5 VTHRES=0 VHYST=1M TDEL={TDEL}
R17         0 VCt R_RES_1 1T 
SW9         VCt 31 Tconv Iref_on S_VSWITCH_1
C11         0 VCt  {Cosc} 
R14         Vthp osc_out {Rd2} 
R13         0 Vthp {Rd1} 
R12         VCt osc_out {Rosc} 
C12         0 Vref_ideal  100P 
R3          0 Vsamp R_RES_1 1 
SW5         29 0 Res0 0 S_VSWITCH_6
SW1         30 0 Res0 0 S_VSWITCH_6
R7          22 0 R_RES_1 1T 
R8          0 20 R_RES_1 1T 
R2          0 35 R_RES_1 1 
GVCCS1      35 0 29 30  -1
C5          20 0  {Cdio} 
C4          0 22  {Cdio} 
SW4         0 40 Tacq0_15 0 S_VSWITCH_7
SW3         0 41 Tacq0_15 0 S_VSWITCH_7
C7          0 41  {Cres} 
C6          0 40  {Cres} 
SW2         40 30 ResetSH 0 S_VSWITCH_6
SW_acq2     30 21 Tacq 0 S_VSWITCH_8
C1          0 30  {Csh} 
SW_conv     41 29 ResetSH 0 S_VSWITCH_6
SW_acq1     29 23 Tacq 0 S_VSWITCH_8
Csh         0 29  {Csh} 

.MODEL R_RES_1 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_1 VSWITCH (RON=1 ROFF=1G VON=1 VOFF=4)
.MODEL S_VSWITCH_2 VSWITCH (RON=1 ROFF=1T VON=100M VOFF=1)
.MODEL S_VSWITCH_3 VSWITCH (RON=10 ROFF=1G VON=1 VOFF=4)
.MODEL S_VSWITCH_4 VSWITCH (RON=10 ROFF=1G VON=-2 VOFF=0)
.MODEL S_VSWITCH_5 VSWITCH (RON=96 ROFF=1T VON=2 VOFF=0)
.MODEL S_VSWITCH_6 VSWITCH (RON=10 ROFF=1T VON=4 VOFF=1)
.MODEL S_VSWITCH_7 VSWITCH (RON=10 ROFF=1G VON=4 VOFF=1)
.MODEL S_VSWITCH_8 VSWITCH (RON=96 ROFF=1T VON=4 VOFF=1)
.ENDS



.SUBCKT One_Shot_ADC ResetSH Tacq Tconv In Res
+ PARAMS: tConv=710n
.PARAM Vconv= {2}
.PARAM Itd= {100u}
.PARAM Rres= {1}
.PARAM Vout= {5}
.PARAM tD= {1n}
.PARAM Cconv= { (tConv-tD)*Itd/Vconv}
.PARAM tRes_del= {98}
.PARAM tRes_end= {99}
.PARAM Vthrl= {10m*tRes_del*Vconv}
.PARAM Vthrh= {10m*tRes_end*Vconv}
.PARAM Vth= {Vout/2}
VS1         DPWR 0 {Vout}
R26         DPWR 0 1K 
GVCCS10     0 ResetSH VALUE = {IF(V(RSHL,0)>VTH&V(RSHH,0)<VTH&V(Qtd,0)<VTH,VOUT,0)}
R23         0 ResetSH R_RES_1 1 
R3          In 0 1G 
R1          0 Tconv R_RES_1 1 
GVCCS1      Tconv 0 Qtd DPWR  1
R6          0 Tacq R_RES_1 1 
GVCCS6      Tacq 0 Qtd 0  -1
XU5         In 0 InC 0 HYSTCOMPG_2_0
+ PARAMS: ROUT=1 VOUTH={Vout} VOUTL=0 VTHRES=1.5 VHYST=1M TDEL=100P
SW1         VCtd 0 Res 0 S_VSWITCH_1
XU3         Cmptd DPWR R Res Qtd 18 DPWR 0 RSFFLOP_P_R_ASR2_0
+ PARAMS: DLH=200P DHL=200P VOUTH={VOUT} VOUTL=0 VTHRES={Vth}
XU2         VCtd 0 RSHH 0 HYSTCOMPG_2_0
+ PARAMS: ROUT=1 VOUTH={Vout} VOUTL=0 VTHRES={VTHRH-1M} VHYST=1M TDEL=1N
XU1         VCtd 0 RSHL 0 HYSTCOMPG_2_0
+ PARAMS: ROUT=1 VOUTH={Vout} VOUTL=0 VTHRES={VTHRL-1M} VHYST=1M TDEL=1N
XU4         VCtd 0 Cmptd 0 HYSTCOMPG_THLRF_0_9_0
+ PARAMS: ROUT=1 VOUTH={Vout} VOUTL=0 VTHRES={VCONV-1M} VHYST=1M TDLH=1N TDHL=1N
+ TRISE=100P TFALL=100P
R9          R InC R_RES_1 1G 
R2          0 R 1K 
C2          R InC  10P 
SW2         VCtd 0 Qtd 0 S_VSWITCH_2
XD3         VCtd DPWR D_D2_0
GKItd       DPWR VCtd VALUE = {ITD}
Cconv       VCtd 0  {Cconv}

.MODEL R_RES_1 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_1 VSWITCH (RON=1 ROFF=1G VON=1 VOFF=4)
.MODEL S_VSWITCH_2 VSWITCH (RON=1 ROFF=1G VON=4 VOFF=1)

.ENDS

.SUBCKT One_Shot_ADC2 ResetSH Tacq0 Tconv In Res Tacq
+ PARAMS: tConv=710n
.PARAM Vconv= {2}
.PARAM Itd= {100u}
.PARAM Rres= {1}
.PARAM Vout= {5}
.PARAM tD= {1n}
.PARAM Cconv= { (tConv-tD)*Itd/Vconv}
.PARAM tRes_del= {98}
.PARAM tRes_end= {99}
.PARAM Vthrl= {10m*tRes_del*Vconv}
.PARAM Vthrh= {10m*tRes_end*Vconv}
.PARAM Vth= {Vout/2}
VS1         DPWR 0 {Vout}
XU6         St DPWR 0 Res Tacq0 35 DPWR 0 RSFFLOP_P_R_ASR2_0
+ PARAMS: DLH=100P DHL=100P VOUTH={VOUT} VOUTL=0 VTHRES=1
R26         DPWR 0 1K 
GVCCS10     0 ResetSH VALUE = {IF(V(RSHL,0)>VTH&V(RSHH,0)<VTH&V(Qtd,0)<VTH,VOUT,0)}
R23         0 ResetSH R_RES_1 1 
R3          In 0 1G 
R1          0 Tconv R_RES_1 1 
GVCCS1      Tconv 0 Qtd DPWR  1
R6          0 Tacq R_RES_1 1 
GVCCS6      Tacq 0 Qtd 0  -1
XU5         In 0 InC 0 HYSTCOMPG_2_0
+ PARAMS: ROUT=1 VOUTH={Vout} VOUTL=0 VTHRES=1.5 VHYST=1M TDEL=100P
SW1         VCtd 0 Res 0 S_VSWITCH_1
XU3         Cmptd DPWR St Res Qtd 39 DPWR 0 RSFFLOP_P_R_ASR2_0
+ PARAMS: DLH=200P DHL=200P VOUTH={VOUT} VOUTL=0 VTHRES={Vth}
XU2         VCtd 0 RSHH 0 HYSTCOMPG_2_0
+ PARAMS: ROUT=1 VOUTH={Vout} VOUTL=0 VTHRES={VTHRH-1M} VHYST=1M TDEL=1N
XU1         VCtd 0 RSHL 0 HYSTCOMPG_2_0
+ PARAMS: ROUT=1 VOUTH={Vout} VOUTL=0 VTHRES={VTHRL-1M} VHYST=1M TDEL=1N
XU4         VCtd 0 Cmptd 0 HYSTCOMPG_THLRF_0_9_0
+ PARAMS: ROUT=1 VOUTH={Vout} VOUTL=0 VTHRES={VCONV-1M} VHYST=1M TDLH=1N TDHL=1N
+ TRISE=100P TFALL=100P
R9          St InC R_RES_1 1T 
R2          0 St 1K 
C2          St InC  10P 
SW2         VCtd 0 Qtd 0 S_VSWITCH_2
XD3         VCtd DPWR D_D2_0
GKItd       DPWR VCtd VALUE = {ITD}
Cconv       VCtd 0  {Cconv}

.MODEL R_RES_1 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_1 VSWITCH (RON=1 ROFF=1G VON=1 VOFF=4)
.MODEL S_VSWITCH_2 VSWITCH (RON=1 ROFF=1G VON=4 VOFF=1)

.ENDS

* BEGIN PROG NSE NANO VOLT/RT-HZ
.SUBCKT VNSE_0 1 2
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
+ PARAMS: 
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
* NV/RHZ AT 1/F FREQ
+ NLF=4.077
* FREQ FOR 1/F VAL
+ FLW=0.01
* SET UP VNSE FB
* NV/RHZ FLATBAND
+ NVR=4.09
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE NANOV/RT-HZ

.SUBCKT D_D1_0 1    2
D1 1 2  DD
.MODEL DD D( IS=10f N=1.0 RS=0 T_ABS=25 AF=0 KF=0)
.ENDS

.SUBCKT HYSTCOMPG_3_0_ inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Tdel=1N
*
.PARAM Delay = {MAX(Tdel,1p)}
.Param Rdel = {IF ( (Delay > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Cout={Delay/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
*
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}

.Param Ktm=1.0
Gtm gnd tm  Value= {1/(Abs(V(inp,inm) - V(thr,gnd)) + 1m)}
Rtm tm gnd {1}
Ctm tm gnd {Ktm*Cout*Rdel}
.ENDS

.SUBCKT HYSTCOMPG_3_0 inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Tdel=1N
*
.PARAM Delay = {MAX(Tdel,1p)}
.Param Rdel = {IF ( (Delay > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Cout={Delay/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
.Param Csin= {1n*1m}
*
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}

GVCCS2      0 T2 VALUE = {sin(1.0*pi*V(inp,inm))}
C5          0 T2  {Csin}
R4          0 T2 1 
.ENDS

.SUBCKT HYSTCOMPG_0 inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Tdel=1N
*
.PARAM Delay = {MAX(Tdel,1p)}
.Param Rdel = {IF ( (Delay > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Cout={Delay/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
.Param Csin= {1n*1m}
*
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}
.ENDS

.SUBCKT HYSTCOMPG_2_0 inp inm out gnd 
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Tdel=1N
*
.PARAM Delay = {MAX(Tdel,1p)}
.Param Rdel = {IF ( (Delay > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Cout={Delay/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
.Param Csin= {1n*1m}
*
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}

GVCCS2      0 T2 VALUE = {sin(10*2*pi*V(inp,inm))}
C5          0 T2  {Csin}
R4          0 T2 1 
.ENDS

.SUBCKT RSFFLOP_P_R_ASR2_0 S S_ R R_ Q QB DPWR DGND
+ PARAMS: DHL= {10n} DLH= {10n} VOUTH= {5} VOUTL= {0} VTHRES= {2.5}
* R has higher priority
.PARAM MinADel= {100p}
.Param Rdel = 1k
.Param Cdel={MinADel/(0.693*(Rdel+1u))}
.Param Cdel1={Max(MinADel,DLH)/(2.2*(Rdel+1u))}
.Param Cdel2={Max(MinADel,DHL)/(2.2*(Rdel+1u))}
C2          DPWR Q  {Cdel2}
C1          DPWR QB  {Cdel1}
GVCCS2      DGND 9 VALUE = {IF(V(R,DGND)>VTHRES | V(R_,DGND)<VTHRES, 0, IF((TIME<1F)&(V(S,DGND)<VTHRES)&(V(S_,DGND)>VTHRES), 0, 1M*V(Q,DGND)))}
*GVCCS2      DGND 9 VALUE = {IF(V(R,DGND)>VTHRES | V(R_,DGND)<VTHRES, 0, IF((V(S,DGND)<VTHRES)&(V(S_,DGND)>VTHRES), 0, IF (TIME<1p, 1M*VOUTH, 1M*V(Q,DGND))))}
GVCCS1      DGND 10 VALUE = {IF((V(S,DGND)>VTHRES | V(S_,DGND)<VTHRES) & ((V(R,DGND)<VTHRES) & V(R_,DGND)>VTHRES), 0, 1M*V(QB,DGND))}
*GVCCS1      DGND 10 VALUE = {IF((V(S,DGND)>VTHRES | V(S_,DGND)<VTHRES) & ((V(R,DGND)<VTHRES) & V(R_,DGND)>VTHRES), 0, IF (TIME<1p, 1M*VOUTH, 1M*V(QB,DGND)))}
R4          9 DGND 1.0K
C4          9 DGND {0.1*Cdel} 
R3          10 DGND 1.0K 
C3          10 DGND {0.1*Cdel} 
R2          DPWR QB 1K 
R1          DPWR Q 2K 
SW2         QB DGND 9 DGND S_VSWITCH_1
SW1         Q DGND 10 DGND S_VSWITCH_1
.MODEL S_VSWITCH_1 VSWITCH (RON=10 ROFF=1G VON={1.2*VTHRES} VOFF={0.8*VTHRES})
.ENDS

.SUBCKT HYSTCOMPG_THLRF_0_9_0 inp inm out gnd
+ Params: VoutH=5 VoutL=0 Rout=1 Tdlh=1N Tdhl=1N Trise=1N Tfall=1N  Vthres=0 Vhyst=1m
* Trise ->   90%*(VoutH-VoutL), Tfall -> 10%*(VoutH-VoutL)
.Param MinADel=100p
.PARAM Tdellh = {MAX(Tdlh,MinADel)}
.PARAM Tdelhl = {MAX(Tdhl,MinADel)}
.Param Rdel = {IF ( ((Tdellh > 1E-15)|(Tdelhl > 1E-15)) & (Rout < 1), 1, Rout ) } 
.Param Ro = {IF ( ((Trise > 1E-15)|(Tfall > 1E-15)) & (Rout < 1), 1, Rout ) } 
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Tdmin= 1p
.Param MthOH= 0.9
.Param MthOL= 0.1

.Param Cdel={Sqrt((Tdelhl+Tdmin)*(Tdellh+Tdmin))/(2.28*(Rdel+1u))}
.Param Gdlh={Sqrt((Tdelhl+Tdmin)/(Tdellh+Tdmin))/Rdel}
.Param Gdhl={(Tdellh+Tdmin)/(Tdelhl+Tdmin)*Gdlh}

.Param Cout={Sqrt(Tfall*Trise)/(2.287*(Ro+1u))}
.Param Gr={Sqrt(Tfall/(Trise+Tdmin))/Ro}
.Param Gf={(Trise+Tdmin)/Tfall*Gr}

Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1

Gouti gnd outi Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(outi,gnd))*Gdlh, (VoutL - V(outi,gnd))*Gdhl )}
Couti outi gnd {Cdel}
Routi outi gnd {1e5*Rdel}

Gthro gnd thro Value= { IF ( V(out,gnd) < VoutM, (VoutH-VoutL)*MthOH, (VoutH-VoutL)*MthOL ) }
Rthro gnd thro 1

Gout gnd out Value= { IF ( (V(outi, gnd) > V(thro,gnd)), (VoutH - V(out,gnd))*Gr, (VoutL - V(out,gnd))*Gf ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}
.Param Csin= {1n*1m}
GVCCS2      0 T2 VALUE = {sin(10*2*pi*V(inp,inm))}
C5          0 T2  {Csin}
R4          0 T2 1 
.ENDS

.SUBCKT D_D2_0 1    2
D1 1 2  DD
.MODEL DD D( IS=1p N=1.0 RS=0 T_ABS=25)
.ENDS

*Voltage Controlled Resistor
*TG New April 2013 uses current source
.subckt VC_Res 1    3    4
*              VC+  Res1 Res2
*.param Rvalue = 1
*for each V(1,0) compute gain = R(3,4)/V(1,0) ==> R(3,4) = gain*V(1,0)
*I(3,4) = V(3,4)/R(3,4) = V(3,4)/(gain*V(1,0))
Rdummy 3 4 1T
*GRES1 3 4 Value = {IF( V(1,0) > 1e-6 , V(3,4)/V(1,0),1e-30)} 
GRES1 3 4 Value = {V(3,4)/Max(V(1,0),1e-3)} 
.ends VC_Res

